US07427632B2
N-[1-(4-Fluorophenyl)-2-(1-isopropylpiperidin-4-ylmethoxy)-ethyl]-1H-indole-6-carboxamide
Using alkylation method A, N-[1-(4-fluorophenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (900 mg, 2.3 mmol) and acetone (25 mL, 340 mmol) afforded, after purification (SiO2: 8:2:1 hexane:EtOAc:isopropylamine), 45 mg (5%) of the title compound.

reactant | N-[1-(4-fluorophenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 2.3 mmol, 900 mg | FC1=CC=C(C=C1)C(COCC1CCNCC1)NC(=O)C1=CC=C2C=CNC2=C1 | C23H26FN3O2
reactant | acetone | 340 mmol, 25 mL | CC(=O)C | C3H6O
product | N-[1-(4-Fluorophenyl)-2-(1-isopropylpiperidin-4-ylmethoxy)-ethyl]-1H-indole-6-carboxamide | FC1=CC=C(C=C1)C(COCC1CCN(CC1)C(C)C)NC(=O)C1=CC=C2C=CNC2=C1 | C26H32FN3O2
